US03959471
To a solution of 38 g. di(m-chlorobenzoyl)methane in 400 ml. glacial acetic acid is added 23 g. N-methylurea and 57 g. p-toluene sulfonic acid. This mixture is refluxed for 24 hours and acetic acid removed by evaporation in vacuo. The residue is treated with 2N. sodium hydroxide till basic, extracted several times with methylene chloride. The combined methylene chloride extracts are then exhaustively extracted with water, dried and evaporated in vacuo to dryness. The residue is crystallized from methylene chloride/diethyl ether and then twice from benzene to obtain 1-methyl-4,6-di(m-chlorophenyl)-pyrimidine-2(1H)-one, m.p. 178°-181°C.

reactant | di(m-chlorobenzoyl)methane | ClC=1C=C(C(=O)CC(C2=CC(=CC=C2)Cl)=O)C=CC1 | C15H10Cl2O2
reactant | N-methylurea | CNC(=O)N | C2H6N2O
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-methyl-4,6-di(m-chlorophenyl)-pyrimidine-2(1H)-one | CN1C(N=C(C=C1C1=CC(=CC=C1)Cl)C1=CC(=CC=C1)Cl)=O | C17H12Cl2N2O
